US07288544B2
2) Synthesis of 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid methylester:
1.00 g (3.48 mmol) of 3-(3,5-dichlorophenyl)-2-propionyl-acrylic methylester was dissolved in 10 ml of DMF. 776 mg (2.79 mmol) of methylisothiourea-sulfate and 428 mg (5.22 mmol) of sodium acetate were added at room temperature and stirred at the same temperature for 2 days. After DMF was evaporated under reduced pressure, the reaction mixture was diluted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was dissolved in toluene and catalytic amount of silica gel was added and stirred at 100° C. for one day. After filtering silica gel, the filtrate was concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=10/1 to 2/1) to obtain the title compound.

reactant | 3-(3,5-dichlorophenyl)-2-propionyl-acrylic methylester | 3.48 mmol, 1.00 g | COC(C(=CC1=CC(=CC(=C1)Cl)Cl)C(CC)=O)=O | C13H12Cl2O3
reactant | methylisothiourea sulfate | 2.79 mmol, 776 mg | CNC(S)=N.S(=O)(=O)([O-])[O-]
reactant | sodium acetate | 5.22 mmol, 428 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3,5-dichlorophenyl)-6-ethyl-2-(methylthio)-1,4-dihydropyrimidine-5-carboxylic acid methylester | COC(=O)C=1C(N=C(NC1CC)SC)C1=CC(=CC(=C1)Cl)Cl | C15H16Cl2N2O2S
